US08183246B2
(2R,3R)-3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol
Add 2.4 ml of a 12.5 N sodium hydroxide solution to a solution of 1.34 g (14.8 mmol) (2R,3R)-butane-2,3-diol in 20 ml toluene, 7 ml 1,2-dimethoxyethane and 7 ml water at 70° C. After adding 101 mg (0.30 mmol) tetra-n-butylammonium hydrogensulphate and 1.00 g (2.97 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine, stir the reaction mixture for 17 h at 70° C. After cooling to room temperature, adjust to pH 7 with concentrated hydrochloric acid. Extract three times with 50 ml dichloromethane each time. Wash the combined organic extracts with satd. sodium chloride solution, dry over sodium sulphate, filter and concentrate by vacuum evaporation. Mix the raw product with methanol, filter, and purify the filtrate by preparative RP-HPLC (gradient: water/acetonitrile). 0.60 g (50% of theor.) of the desired product is obtained.

reactant | sodium hydroxide | 12.5 N | [OH-].[Na+]
reactant | (2R,3R)-butane-2,3-diol | 14.8 mmol, 1.34 g | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 2.97 mmol, 1.00 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 7 ml | COCCOC | C4H10O2
solvent | water | 7 ml | O | H2O
catalyst | tetra-n-butylammonium hydrogensulphate | 0.30 mmol, 101 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,3R)-3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)O[C@@H]([C@@H](C)O)C)C2=CC=CC=C2 | C23H22N2O4
